US08080563B2
Titanium (IV) isopropoxide (496 mg, 1.74 mmol) and 2-(8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxoquinolin-1(2H)-yl)acetaldehyde (400 mg, 0.87 mmol) were added sequentially to a solution of dimethylamine hydrochloride (144 mg, 1.74 mmol), triethylamine (176 mg, 1.74 mmol), and absolute ethanol (20 mL). After stirring overnight, sodium borohydride (50 mg, 1.3 mmol) was added. After an additional 3 h, the reaction was poured into aq. ammonia (30 mL) and then filtered—washing with dichloromethane. The filtrate was extracted with dichloromethane (50 mL×3). The combined extracts were dried, filtered, concentrated, and purified by reverse-phase HPLC to give 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-1-(2-(dimethylamino)ethyl)-7-methoxyquinolin-2(1H)-one: 1H NMR (400 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.73 (s, 2H), 7.91 (d, 1H), 7.12 (d, 1H), 4.94 (s, 1H), 4.71 (t, 2H), 4.58 (m, 1H), 3.90 (s, 3H), 2.22 (m, 2H), 2.04 (s, 6H), 1.80-1.50 (m, 8H); MS (ESI): δ 491.0.

reactant | 2-(8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxoquinolin-1(2H)-yl)acetaldehyde | 0.87 mmol, 400 mg | C1(CCCC1)OC=1C(=CC=C2C(=CC(N(C12)CC=O)=O)NC1=C(C=NC=C1Cl)Cl)OC | C22H21Cl2N3O4
reactant | dimethylamine hydrochloride | 1.74 mmol, 144 mg | Cl.CNC
reactant | triethylamine | 1.74 mmol, 176 mg | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 1.3 mmol, 50 mg | [BH4-].[Na+]
reactant | ammonia | 30 mL | N | H3N
catalyst | Titanium (IV) isopropoxide | 1.74 mmol, 496 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-1-(2-(dimethylamino)ethyl)-7-methoxyquinolin-2(1H)-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(N(C12)CCN(C)C)=O)NC1=C(C=NC=C1Cl)Cl)OC | C24H28Cl2N4O3
